US06949577B2
tert-Butyl 3-[hydroxy(1-propyl-1H-imidazol-4-yl)methyl]-2-oxo-1-piperidinecarboxylate
Lithium bis(trimethylsilyl)amide (244 ml, 1M in tetrahydrofuran, 244 mmol) was added dropwise over an hour to a cooled (−75° C.) solution of tert-butyl 2-oxo-1-piperidinecarboxylate (J. Org. Chem. 1983, 48, 2424; J. Chem. Soc. I, 1989, 721) (48.7 g, 244 mmol) in tetrahydrofuran (200 ml) under nitrogen, so as to maintain the temperature below −70° C. The mixture was warmed to 0° C., stirred for 90 minutes, then re-cooled to −75° C. A solution of the imidazole from preparation 66 (26.0 g, 188 mmol) in tetrahydrofuran (86 ml) was added dropwise over 30 minutes, and once addition was complete, the reaction was stirred for 2 hours at −75° C. The mixture was poured into 15% aqueous citric acid solution (650 ml), and extracted with ethyl acetate (3×250 ml). The aqueous solution was basified to pH 8 using 10% sodium hydroxide, and extracted with dichloromethane (3×250 ml). These organic extracts were dried and concentrated under reduced pressure to give the title compound as a pale yellow solid, 54.1 g.

reactant | Lithium bis(trimethylsilyl)amide | 244 mmol, 1M, 244 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | tert-butyl 2-oxo-1-piperidinecarboxylate | 244 mmol, 48.7 g | O=C1N(CCCC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | citric acid | 650 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 86 ml | O1CCCC1 | C4H8O
product | tert-Butyl 3-[hydroxy(1-propyl-1H-imidazol-4-yl)methyl]-2-oxo-1-piperidinecarboxylate | OC(C1C(N(CCC1)C(=O)OC(C)(C)C)=O)C=1N=CN(C1)CCC | C17H27N3O4
